US06756378B2
A mixture of 3-methoxy-4-(N′-phenylureido)phenylacetic acid (180 mg, 0.6 mmol), 2-(2-(4-ethoxycarbonylphenyl)ethynyl)pyrrolidine (146 mg, 0.6 mmol), EDC (173 mg, 0.9 mmol), DMAP (73 mg, 0.6 mmol), and cat HOBt in DMF (10 mL) was stirred overnight. The mixture was poured into 1 N HCl and the solid was collected with suction. The residue was dissolved in CHCl3 and dried over MgSO4. After removal of the solvent, the residue was chromatographed on silica-gel with CHCl3—MeOH (10:1, v/v) as eluent to give 192 mg (61%) ethyl 4-[2-[1-[3-methoxy-4-(N′-phenylureido)phenylacetyl]-2-pyrrolidinyl]ethynyl]benzoate as a light yellow amorphous solid. 1H-NMR (CDCl3) δ1.38 (3 H, t, J=6.8 Hz), 1.98-2.24 (4 H, m), 3.48-3.89 (2 H, m), 3.53 (2 H, s), 3.62 (3 H, s), 4.33-4.40 (2 H, m), 4.78-5.04 (1 H, m), 6.77-8.00 (14 H, m).

reactant | 3-methoxy-4-(N′-phenylureido)phenylacetic acid | 0.6 mmol, 180 mg | COC=1C=C(C=CC1NC(=O)NC1=CC=CC=C1)CC(=O)O | C16H16N2O4
reactant | 2-(2-(4-ethoxycarbonylphenyl)ethynyl)pyrrolidine | 0.6 mmol, 146 mg | C(C)OC(=O)C1=CC=C(C=C1)C#CC1NCCC1 | C15H17NO2
reactant | EDC | 0.9 mmol, 173 mg
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl | 1 N | Cl | ClH
catalyst | DMAP | 0.6 mmol, 73 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | ethyl 4-[2-[1-[3-methoxy-4-(N′-phenylureido)phenylacetyl]-2-pyrrolidinyl]ethynyl]benzoate | 192 mg, 61% | COC=1C=C(C=CC1NC(=O)NC1=CC=CC=C1)CC(=O)N1C(CCC1)C#CC1=CC=C(C(=O)OCC)C=C1 | C31H31N3O5
